US06071921
Using an analogous procedure to that described in Example 36, 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride (224 mg, 0.6 mmol), (prepared as described for the starting material in Example 22), was treated with 4-bromomethyl-1,2-difluorobenzene (149 mg, 0.72mmol) to give 7-(3,4-difluorobenzyloxy)-4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxyquinazoline hydrochloride (90 mg, 31%).

reactant | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride | 0.6 mmol, 224 mg | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C(C(=C1)C)OC(=O)OC
reactant | 4-bromomethyl-1,2-difluorobenzene | 0.72mmol, 149 mg | BrCC1=CC(=C(C=C1)F)F | C7H5BrF2
product | 7-(3,4-difluorobenzyloxy)-4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxyquinazoline hydrochloride | 90 mg, 31% | Cl.FC=1C=C(COC2=C(C=C3C(=NC=NC3=C2)NC2=C(C=C(C(=C2)O)C)F)OC)C=CC1F | InChI=1S/C23H18F3N3O3.ClH/c1-12-5-17(26)19(8-20(12)30)29-23-14-7-21(31-2)22(9-18(14)27-11-28-23)32-10-13-3-4-15(24)16(25)6-13;/h3-9,11,30H,10H2,1-2H3,(H,27,28,29);1H
